US07781436B2
(6-Chloro-1H-indol-3-yl)-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone
Following general procedure I, the coupling of (commercially available) 1-(2-fluoro-phenyl)-piperazine (described herein) with 6-chloro-1H-indole-3-carboxylic acid gave the title compound.

reactant | 1-(2-fluoro-phenyl)-piperazine | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | 6-chloro-1H-indole-3-carboxylic acid | ClC1=CC=C2C(=CNC2=C1)C(=O)O | C9H6ClNO2
product | (6-Chloro-1H-indol-3-yl)-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C19H17ClFN3O
